US04766195
1,5,13-trihydroxy-7-oxa-3,11-dithia-tridecane:
catalytic mixture of 13.5 g of triphenylphosphite and thiodiphenol (3 g).

reactant | triphenylphosphite | 13.5 g | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | thiodiphenol | 3 g | S(C1=C(C=CC=C1)O)C1=C(C=CC=C1)O | C12H10O2S
product | 1,5,13-trihydroxy-7-oxa-3,11-dithia-tridecane | OCCSCC(COCCCSCCO)O | C10H22O4S2
